US07544677B2
4-[2-(methylthio)-6-phenylpyrido[2,3-d]pyrimidin-7-yl]benzaldehyde (1-4)
The mixture of 7-chloro-2-(methylthio)-6-phenylpyrido[2,3-d]pyrimidine (0.100 g, 0.347 mmol), 4-formylphenylboronic acid (0.13 g, 0.87 mmol), Cesium carbonate (0.34 g, 1.04 mmol) and bis(tri-t-butylphosphine)palladium (0.018 g, 0.035 mmol) in dioxane (5 mL) was heated to reflux overnight. The reaction mixture was diluted with water and extracted with CH2Cl2. The combined organic layer was dried, filtered and concentrated. The residue was purified by silica gel chromatography (20% EtOAc in hexane) to give the title compound. LRMS m/z (M+H) Calcd: 358.4, found: 358.2.

reactant | 7-chloro-2-(methylthio)-6-phenylpyrido[2,3-d]pyrimidine | 0.347 mmol, 0.100 g | ClC=1C(=CC2=C(N=C(N=C2)SC)N1)C1=CC=CC=C1 | C14H10ClN3S
reactant | 4-formylphenylboronic acid | 0.87 mmol, 0.13 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Cesium carbonate | 1.04 mmol, 0.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.035 mmol, 0.018 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 4-[2-(methylthio)-6-phenylpyrido[2,3-d]pyrimidin-7-yl]benzaldehyde | CSC=1N=CC2=C(N1)N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C21H15N3OS
